US09428500B2
2-benzyl-5-bromo-4-methoxyphenol
To a solution of (4-bromo-2-hydroxy-5-methoxyphenyl)(phenyl)methanone (100 mg, 0.325 mmol) in 0.22 mL of anhydrous DCM (C=1.5M), were successively added dropwise trifluoroacetic acid (0.25 mL, 10 eq) and triethylsilane (0.21 mL, 4 eq). After 17 h of stirring at r.t., the reaction mixture was hydrolyzed with a saturated NH4Cl solution (5 mL) The layers were diluted with 20 mL of DCM and 20 mL of water and then separated. The aqueous layer was extracted twice with DCM (2×5 mL). The combined organic phase was washed twice with a saturated NaHCO3 solution (2×20 mL), brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by silica gel flash chromatography (Cyclohexane/AcOEt 97:3) to afford the desired product in 72% yield (68.5 mg) as an uncoloured oil. 1H NMR (300 MHz, CDCl3) δ 7.36-7.28 (m, 2H), 7.28-7.20 (m, 3H), 7.01 (s, 1H), 6.70 (s, 1H), 4.89 (s, 1H), 3.96 (s, 2H), 3.80 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 150.3 (C), 148.1 (C), 139.4 (C), 128.8 (CH), 128.7 (CH), 127.5 (C), 126.6 (CH), 120.7 (CH), 115.0 (CH), 109.4 (C), 57.0 (OCH3), 36.4 (CH2Bn); MS (ESI) m/z: 310.1, 312.1 [M+NH4, 79Br, 81Br]+; 602.0, 604.3, 606.1 [2M+NH4, 79Br, 81Br]+.

reactant | (4-bromo-2-hydroxy-5-methoxyphenyl)(phenyl)methanone | 0.325 mmol, 100 mg | BrC1=CC(=C(C=C1OC)C(=O)C1=CC=CC=C1)O | C14H11BrO3
reactant | trifluoroacetic acid | 0.25 mL, 10 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.21 mL, 4 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DCM | 1.5M, 0.22 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 2-benzyl-5-bromo-4-methoxyphenol | 72% yield | C(C1=CC=CC=C1)C1=C(C=C(C(=C1)OC)Br)O | C14H13BrO2
